US08404679B2
6-Methyl-pyridazine-4-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide
In analogy to the procedure described for the synthesis of example 97, the title compound 6-methyl-pyridazine-4-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 6-methyl-pyridazine-4-carboxylic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown oil. MS m/e: 557.9 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 6-methyl-pyridazine-4-carboxylic acid | CC1=CC(=CN=N1)C(=O)O | C6H6N2O2
product | 6-methyl-pyridazine-4-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(=O)C1=CN=NC(=C1)C)C | C28H33Cl2N5O3
